US08471063B2
1.3 N,N-di-(tert.-butyloxycarbonyl)-L-glutamic acid 5-methyl ester 1-tert.-butyl ester
1.3 g of N-tert.-butyloxycarbonyl-L-glutamic acid 5-methyl ester 1-tert.-butyl ester (1.2., 4.12 mmol) are dissolved in 15 ml of acetonitrile and mixed with 100 mg of N,N-dimethyl-4-aminopyridine (DMAP). A solution of 1.79 g of di-tert.-butyl-bicarbonate (8.2 mmol) in 7 ml of acetonitrile is added under nitrogen atmosphere. After stirring overnight, the solvent is removed under vacuum and the crude product obtained is purified by means of chromatography on silica gel.

reactant | N-tert.-butyloxycarbonyl-L-glutamic acid 5-methyl ester 1-tert.-butyl ester | 4.12 mmol, 1.3 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCC(=O)OC)=O | C15H27NO6
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | N,N-dimethyl-4-aminopyridine | 100 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | N,N-di-(tert.-butyloxycarbonyl)-L-glutamic acid 5-methyl ester 1-tert.-butyl ester | C(C)(C)(C)OC([C@@H](N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC(=O)OC)=O | C20H35NO8
